* C:\Users\Knabb\Desktop\Studie\Systeemontwerp\Sensors\Temperatuur\versterker\Ltspice_hopen_en_janken.asc
V1 N002 0 5
R1 N005 N008 962
V3 N003 0 5
R3 N006 N009 16.5k
V4 N011 0 2.048
V6 N014 0 1.024
R2 N012 0 24000
XU3 N014 N012 N013 N001 0 LTC2054
V7 N001 0 3.3
Q1 N010 N013 N012 0 BC547B
R4 N001 N010 980
XU1 N010 N005 N008 N001 0 0 N004 N002 AD8226
XU4 N011 N006 N009 N004 0 0 N007 N003 AD8226
V2 N016 0 15
R5 N019 N022 962
V5 N017 0 15
R6 N020 N023 16.5k
V8 N025 0 2.048
V9 N028 0 1.024
R7 N026 0 24000
XU2 N028 N026 N027 N015 0 LTC2054
V10 N015 0 3.3
Q2 N024 N027 N026 0 BC547B
R8 N015 N024 980
XU5 N024 N019 N022 N015 0 0 N018 N016 AD8220
XU6 N025 N020 N023 N018 0 0 N021 N017 AD8220
.model NPN NPN
.model PNP PNP
.lib C:\Users\Knabb\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 1s
.lib AD8220.lib
.lib ADI1.lib
.lib LTC2.LIB
.backanno
.end
