* C:\Users\Knabb\Bureaublad\Studie\Systeemontwerp\Sensors\Temperatuur\versterker\Ltspice_hopen_en_janken.asc
V1 N002 0 5
R1 N005 N008 962
R3 N006 N009 16.5k
V4 N011 0 2.048
V6 N016 0 1.024
R2 N012 0 24000
XU3 N016 N012 N015 N001 0 LTC2054
V7 N001 0 3.3
Q1 N010 N015 N012 0 BC547B
XU1 N010 N005 N008 N001 N013 N013 N004 N002 AD8226
XU4 N011 N006 N009 N004 N014 N014 N007 N003 AD8226
V2 N020 0 15
R5 N023 N026 962
V5 N021 0 15
R6 N024 N027 16.5k
V8 N029 0 2.048
V9 N032 0 1.024
R7 N030 0 24000
XU2 N032 N030 N031 N019 0 LTC2054
V10 N019 0 3.3
Q2 N028 N031 N030 0 BC547B
XU5 N028 N023 N026 N019 0 0 N022 N020 AD8220
XU6 N029 N024 N027 N022 0 0 N025 N021 AD8220
V3 N003 0 5
V11 N018 0 2.5
M1 N014 N018 0 0 BSP89
M2 N013 N017 0 0 BSP89
R9 N018 0 100k
V12 N017 0 2.5
R10 N017 0 100k
R4 N001 N010 {Pt1000}
R8 N019 N028 {Pt1000}
.model NPN NPN
.model PNP PNP
.lib C:\Users\Knabb\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Knabb\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1ms
.step param Pt1000 980 1194 1
.lib ADI1.lib
.lib LTC2.LIB
.backanno
.end
