* C:\Users\Knabb\Bureaublad\Studie\Systeemontwerp\Sensors\Temperatuur\versterker\Ltspice_hopen_en_janken.asc
V1 N002 0 5
R1 N005 N008 962
R3 N006 N009 16.5k
V4 N011 0 2.048
V6 N014 0 1.024
R2 N012 0 24000
XU3 N014 N012 N013 N001 0 LTC2054
V7 N001 0 3.3
Q1 N010 N013 N012 0 BC547B
XU1 N010 N005 N008 N001 0 0 N004 N002 AD8226
XU4 N011 N006 N009 N004 0 0 N007 N003 AD8226
V2 N019 0 15
R5 N022 N025 962
V5 N020 0 15
R6 N023 N026 16.5k
V8 N028 0 2.048
V9 N031 0 1.024
R7 N029 0 24000
XU2 N031 N029 N030 N018 0 LTC2054
V10 N018 0 3.3
Q2 N027 N030 N029 0 BC547B
XU5 N027 N022 N025 N018 0 0 N021 N019 AD8220
XU6 N028 N023 N026 N021 0 0 N024 N020 AD8220
V3 N003 0 5
V11 N017 0 2.5
M1 N015 N017 0 0 BSP89
M2 NC_01 N016 0 0 BSP89
R9 N017 0 100k
V12 N016 0 2.5
R10 N016 0 100k
R4 N001 N010 980
R8 N018 N027 {Pt1000}
R11 N004 N011 100k
.model NPN NPN
.model PNP PNP
.lib C:\Users\Knabb\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Knabb\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1ms
.step param Pt1000 980 1194 10
.lib ADI1.lib
.lib LTC2.LIB
.backanno
.end
